US06998412B2
8-Chloro-4-(p-toluoylamino)-3-octanone
6-Chloro-2-(p-toluoylamino)hexanoic acid (10.0 g) was dissolved in 15 ml of dry pyridine, and 15 ml of propionic anhydride was added and stirred for 2.5 hours at 90° C. To the mixture was added 15 ml of water slowly so that the maximum temperature did not exceed 85° C., and stirred for 20 minutes at 80° C. The reaction solution was cooled, poured into ice-cold water and extracted with diethyl ether. The extract was washed with 10% hydrochloric acid, an aqueous solution of saturated sodium hydrogen carbonate and brine sequentially, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=8:1–4:1) to provide 6.0 g of the objective compound as colorless crystals. M.p. 85–86° C.

reactant | 6-Chloro-2-(p-toluoylamino)hexanoic acid | 10.0 g | ClCCCCC(C(=O)O)NC(=O)C1=CC=C(C=C1)C | C14H18ClNO3
reactant | propionic anhydride | 15 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | water | 15 ml | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 8-Chloro-4-(p-toluoylamino)-3-octanone | 6.0 g | ClCCCCC(C(CC)=O)NC(=O)C1=CC=C(C=C1)C | C16H22ClNO2
